US05214047
53. 2,3,5,6,7,8-Hexahydro-5-(4-methylsulfonyloxyphenyl)imidazo[1,2-c]pyrrolo[1,2-a]quinazoline hydrochloride
6 ml of methylsulfonyl chloride were added dropwise at 0°-5° C. to a vigorously stirred suspension of 8.55 g of 2,3,5,6,7,8-hexahydro-5-(4-hydroxyphenyl)imidazo[1,2-c]pyrrolo[1,2-a]quinazoline hydrochloride in 100 ml of methylene chloride and 25 ml of pyridine, and the reaction mixture was stirred at room temperature for 70 h. The solvent was removed by distillation and then 1N HCl was added, and the resulting precipitate was recrystallized from ethanol/methyl t-butyl ether. Yield: 8.0 g (76%); melting point 241°-242° C. (decomposition).

reactant | methylsulfonyl chloride | 6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,3,5,6,7,8-hexahydro-5-(4-hydroxyphenyl)imidazo[1,2-c]pyrrolo[1,2-a]quinazoline hydrochloride | 8.55 g | Cl.OC1=CC=C(C=C1)C1CCN2C1N1C(C=3C=CC=CC23)=NCC1
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 2,3,5,6,7,8-Hexahydro-5-(4-methylsulfonyloxyphenyl)imidazo[1,2-c]pyrrolo[1,2-a]quinazoline hydrochloride | Cl.CS(=O)(=O)OC1=CC=C(C=C1)C1CCN2C1N1C(C=3C=CC=CC23)=NCC1 | InChI=1S/C20H21N3O3S.ClH/c1-27(24,25)26-15-8-6-14(7-9-15)16-10-12-22-18-5-3-2-4-17(18)19-21-11-13-23(19)20(16)22;/h2-9,16,20H,10-13H2,1H3;1H
